US05504244
Anhydrous aluminium chloride (38.35 g) is added to a solution of the acid chloride prepared from 3-cyanobenzoic acid (36.3 g) as described in Example 26 and nitrobenzene (200 ml). A solution of 3-n-hexyloxytoluene (39.5 g) in nitrobenzene (50 ml) is added and the resulting mixture heated to 110°-120° C. for 3 hours. The reaction mixture is cooled and poured into a mixture of ice water (1,000 ml) and concentrated hydrochloric acid (100 ml). The mixture is extracted with ether (3×300 ml) and the combined extracts concentrated and the nitrobenzene removed by steam distillation. The resulting residue is dissolved in ether, dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue is chromatographed on silica gel (hexanes:ether; 70:30) to yield 3-(2-methyl-4-n-hexyloxybenzoyl)benzonitrile (21.1 g) as a dark brown oil and 3-(2-hydroxy-4-methylbenzoyl)benzonitrile, which is recrystallized from ethanol to give 5.78 g as a yellow solid (m.p. 126°-128°C.). The 3-(2-methyl-4-n-hexyloxybenzoyl)benzonitrile thereby obtained is heated under reflux in a mixture of acetic acid (160 g) and a solution of 75% sulfuric acid (160 g) for 1 hour. The cooled mixture is then poured into ice water (500 ml) and extracted with ether (3×200 ml). The extract is dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue is chromatographed on silica gel (hexanes:ether:acetic acid; 50:50:1). The main fraction is collected and concentrated in vacuo. The residual yellow solid is crystallized from heptane to yield 3-(4-n-hexyloxy-2-methylbenzoyl)benzoic acid (9.62 g) as yellow needles m.p. 136°-138° C.

reactant | 3-(2-methyl-4-n-hexyloxybenzoyl)benzonitrile | CC1=C(C(=O)C=2C=C(C#N)C=CC2)C=CC(=C1)OCCCCCC | C21H23NO2
reactant | sulfuric acid | 160 g | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 160 g | C(C)(=O)O | C2H4O2
product | 3-(4-n-hexyloxy-2-methylbenzoyl)benzoic acid | 9.62 g | C(CCCCC)OC1=CC(=C(C(=O)C=2C=C(C(=O)O)C=CC2)C=C1)C | C21H24O4
